US07612091B2
2-formyl-4-chloro-N-methylbenzamide
To a solution of 4-chloro-N-methyl-benzamide (3.1 g) in THF (30 mL) was added n-butyl lithium (30.1 mL of 2.5M hexane solution) and the solution refluxed for 45 min. The solution was then cooled to 0° C. and N-methylformanilide (9.27 mL) added dropwise over 2 min. The solution was then refluxed for 2 h and then cooled to ambient temperature, water (80 mL) added and the solution acidified to pH 1 with 2M HCl. The solution was then extracted three times with ethyl acetate (3×50 mL), washed with brine (20 mL), dried (MgSO4) and concentrated in vacuo. The resulting brown oil was purified on silica by flash chromatography to afford the sub-titled product as a pale yellow solid (2.13 g; 59%); 1H NMR (400 MHz, CDCl3) δ 2.90 (3H, s), 4.25 (1H, d) 5.60 (1H, d), 7.35 (2H, s), 7.60 (1H, s).

reactant | 4-chloro-N-methyl-benzamide | 3.1 g | ClC1=CC=C(C(=O)NC)C=C1 | C8H8ClNO
reactant | n-butyl lithium | 2.5M, 30.1 mL | C(CCC)[Li]
reactant | N-methylformanilide | 9.27 mL | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | HCl | 2M | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
product | 2-formyl-4-chloro-N-methylbenzamide | 2.13 g, 59% | C(=O)C1=C(C(=O)NC)C=CC(=C1)Cl | C9H8ClNO2
